US04348521
To a stirred solution of 0.2 mole (34.8 g) of 1,3-dimethyl-2-oxoquinoxaline in 300 ml of dry tetrahydrofuran was added dropwise 0.24 mole (240 ml of 1 M) diborane in tetrahydrofuran. The solution was stirred one additional hour, then heated at its reflux temperature for one day. After cooling, about 40 ml of water was added, followed by 2 equivalents of 4 N hydrochloric acid. The solution was heated at reflux for one hour, then evaporated to provide a solid residue. The residue was dissolved in water. The solution was basified and then extracted with diethyl ether. The ether was dried, then evaporated to provide an oil. Distillation provides 1,3-dimethyl-1,2,3,4-tetrahydroquinoxaline, b.p. 85° C./0.1 mm of Hg. Analysis: Calculated for C10H14N2 :%C, 74.0; %H, 8.7; %N, 17.4; Found : %C, 74.2; %H, 8.9; %N, 17.3.

reactant | 1,3-dimethyl-2-oxoquinoxaline | 0.2 mole, 34.8 g | CN1C(C(=NC2=CC=CC=C12)C)=O | C10H10N2O
reactant | diborane | 0.24 mole, 1 M, 240 ml | B#B | B2
reactant | hydrochloric acid | 4 N, 2 equivalents | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | about 40 ml | O | H2O
product | 1,3-dimethyl-1,2,3,4-tetrahydroquinoxaline | CN1CC(NC2=CC=CC=C12)C | C10H14N2
